US07572808B2
E. Preparation of 4-(2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-8-phenyl-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile
Into a flame-dried reaction vessel under argon was placed 4-(8-bromo-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile (49 mg, 0.1 mmol), phenylboronic acid (37 mg, 0.3 mmol), K3PO4 (64 mg, 0.3 mmol), Pd(dppf)Cl2.CH2Cl2 (8.0 mg, 0.01 mmol) and anhydrous THF (1.5 mL). The suspension was degassed with argon bubbling, and the reaction vessel was sealed and stirred at 90° C. for 4.5 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional palladium catalyst (3 mg) and THF (0.5 mL) was added, and the suspension was degassed again. The reaction mixture was stirred at 90° C. for 16 h more. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and water. The EtOAc layer was washed with water, then saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluted with a gradient of EtOAc (0-70%) in hexanes to afford the desired product (90% pure). The product was further purified by preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 70% to 100% B over 10 min (A=90% water, 10% methanol and B=90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue obtained was dissolved in acetonitrile, frozen and lyophilized to afford 19.5 mg of the title compound as a light yellow powder. HPLC/MS: retention time=3.69 min, [M+H]+=486.7.

reactant | 4-(8-bromo-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | 0.1 mmol, 49 mg | BrC=1C=2N(C=CC1C1=CC=C(C#N)C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C21H13BrF3N5O
reactant | phenylboronic acid | 0.3 mmol, 37 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 0.3 mmol, 64 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.01 mmol, 8.0 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4-(2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-8-phenyl-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | 90% | CC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=CC=C2)C2=CC=C(C#N)C=C2)C1=O)C(F)(F)F | C27H18F3N5O
